US04282365
Step D: 2-Bromo-6,11-dihydro-11-oxodibenz[b,e]oxepin
Reflux 120 gm. of o-(p-bromophenoxymethyl)benzoic acid in 500 cc. of trifluoroacetic anhydride containing 0.5 cc. of boron trifluoride-ether complex for 31/2 hours. Cool, separate the solids by filtration, and wash with ether in order to obtain the title product (m.p. 136°-139° C.).

reactant | o-(p-bromophenoxymethyl)benzoic acid | BrC1=CC=C(OCC2=C(C(=O)O)C=CC=C2)C=C1 | C14H11BrO3
reactant | trifluoroacetic anhydride | 0.5 cc | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 2-Bromo-6,11-dihydro-11-oxodibenz[b,e]oxepin | BrC1=CC2=C(OCC3=C(C2=O)C=CC=C3)C=C1 | C14H9BrO2
